US04800201
Preparation of 2-methoxy-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one
m-Chloroperbenzoic acid (12 g) was added gradually to a stirred suspension of 5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one (10 g) in methanol (400 ml) under ice/water-cooling. The reaction mixture was further stirred at ambient temperature for 3 days. The solvent was removed under reduced pressure and the residue was extracted with ethyl acetate, was washed with saturated sodium bicarbonate aqueous solution and successively with water and was dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue was dissolved in chloroform (about 50 ml) and was chromatographed on activated alumina (200 g, about 300 mesh, manufactured by Wako Pure Chemical Industries, Ltd.) cloumn, using chloroform as an eluant. The solvent was removed under reduced pressure and the residue was crystallized from ether to give the titled compound (6 g, yield 51.7%) as pale yellow powder.

reactant | m-Chloroperbenzoic acid | 12 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 10 g | CC=1NC(CSC1C1=CC=NC=C1)=O | C10H10N2OS
solvent | methanol | 400 ml | CO | CH4O
product | 2-methoxy-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 6 g, yield 51.7% | COC1SC(=C(NC1=O)C)C1=CC=NC=C1 | C11H12N2O2S
